US07473669B2
Preparation of Ethyl 3-benzylbenzenecarboximidoate
Anhydrous hydrochloric acid was gently bubbled for 90 minutes into a solution containing 3-benzylbenzonitrile (1.0 g, 5.2 mmol) and absolute ethanol (0.45 mL, 7.8 mmol) in methylene chloride (7 mL) maintained at −4° C. After standing at 4° C. for a week, the reaction mixture was poured into 2:1 hexane/ether (500 mL), left at room temperature for 15 minutes and filtered. The residue was washed with 2:1 hexane/ether (50 mL) and dried in vacuo at room temperature. Yield 1.1 g (77 percent). mp 121-122° C.; 1H NMR (CDCl3) δ 12.58 (br, 1H), 8.29-8.25 (m, 2H), 7.49-7.44 (m, 2H), 7.32-7.27(m, 2H), 7.22-7.18(m, 3H), 4.93 (q, J=6.9 Hz, 2H), 4.09 (s, 2H), 1.60 (t, J=6.9 Hz, 3H); EI/MS 240 m/e (M+1);

reactant | 3-benzylbenzonitrile | 5.2 mmol, 1.0 g | C(C1=CC=CC=C1)C=1C=C(C#N)C=CC1 | C14H11N
reactant | ethanol | 7.8 mmol, 0.45 mL | C(C)O | C2H6O
reactant | hexane ether | 500 mL | CCCCCC.CCOCC
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-benzylbenzenecarboximidoate | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(OCC)=N | C16H17NO
